US08084448B2
A. 5-(2-Benzyloxy-4-furan-3-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (163 mg, 0.37 mmol), furan-3-boronic acid (62 mg, 0.550 mmol), potassium phosphate (235 mg, 1.1 mmol), and palladium dppf (9 mg, 0.011 mmol) in 6 mL of glyme/water (9:1) is heated in a microwave apparatus at 120° C. for 25 min. The mixture is poured into EtOAc and extracted with 1N HCl and saturated NaCl. The organic phase is dried and the solvent removed is under reduced pressure to leave a crude semi-solid that is chromatographed on a C18 column using a gradient of 0-60% water/acetonitrile as eluent. The aqueous is lyophilized to afford the title compound as a hygroscopic solid: 1H NMR (DMSOd6) δ 8.1 (s, 1H), 7.7 (s, 1H), 7.5 (d, J=8.3 Hz, 1H), 7.4 (m, 6H), 7.1 (dd, J=8.3, 1.8 Hz, 1H), 6.9 (s, 1H), 5.2 (s, 2H), 4.0 (s, 2H); (M−1)−=383.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.37 mmol, 163 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | furan-3-boronic acid | 0.550 mmol, 62 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | potassium phosphate | 1.1 mmol, 235 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | glyme water | 6 mL | C(OC)COC.O
catalyst | palladium dppf | 0.011 mmol, 9 mg | [Pd].C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 5-(2-Benzyloxy-4-furan-3-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1=COC=C1)N1CC(NS1(=O)=O)=O | C19H16N2O5S
